US05552437
7-Methoxy-4-phenylisoquinoline
To a solution of 3-methoxybenzylamine (15 g) and pyridine (15 mL) in CH2Cl2 (100 mL) at 0° C. was added p-toluenesulfonyl chloride (21 g) portionwise. After addition was complete, the mixture was stirred at r.t. for 2 h and then saturated NH4Cl was added. The mixture was extracted with Et2O and the extracts were washed with H2O, brine, dried (MgSO4) and concentrated. The residue, 2-bromoacetophenone (23 g) and Cs2CO3 (45 g) in acetone (400 mL) were stirred at r.t. for 20 h. The acetone was evaporated and saturated NH4Cl was added. The mixture was extracted with EtOAc and the organics were washed with H2O, brine, dried (MgSO4) and concentrated. The residual solid was swished in Et2O for 3 h and then mixed with TFA (17 mL). After heating at 75° C. for 2.5 h, the mixture was cooled to r.t., EtOAc and H2O were added and the aqueous phase was made basic by the careful addition of solid K2CO3. The organic phase was washed with saturated NaHCO3, H2O, brine and dried (MgSO4). Concentration and chromatography (silica gel; hexane/EtOAc (3:2 to 1:1) provided the title compound as a solid.

reactant | 3-methoxybenzylamine | 15 g | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 21 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-Methoxy-4-phenylisoquinoline | COC1=CC=C2C(=CN=CC2=C1)C1=CC=CC=C1 | C16H13NO
